US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (1 g, 4.52 mmol) in THF (40 mL) was added tert-butyllithium (3.99 mL, 6.78 mmol) dropwise at −78° C. After stirring for 0.5 h, 2,2,2-trifluoroacetonitrile (0.472 g, 4.97 mmol) was bubbled through the solution via syringe for 1 minute, then warmed to rt, and stirred for 16 h. The reaction mixture was quenched with water (1 mL) and partially evaporated to half to one third of original volume, neutralized with 1 N HCl. The solution was separated with EtOAc. The organics were collected, washed with brine, dried over MgSO4, filtered and evaporated to give crude material as a dark yellow solid. The crude material was purified via silica gel chromatography (90 g column, 10-50% EtOAc:Hex) to give the product 6-methoxy-3-(trifluoromethyl)isoquinolin-1-ol (271 mg, 1.114 mmol, 24.66% yield) as a light yellow solid. MS: MS m/z 244.19(M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 4.52 mmol, 1 g | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 6.78 mmol, 3.99 mL | C(C)(C)(C)[Li]
reactant | 2,2,2-trifluoroacetonitrile | 4.97 mmol, 0.472 g | FC(C#N)(F)F | C2F3N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 6-methoxy-3-(trifluoromethyl)isoquinolin-1-ol | 1.114 mmol, 271 mg, 24.66% yield | COC=1C=C2C=C(N=C(C2=CC1)O)C(F)(F)F | C11H8F3NO2
